US06165942
Synthesis of 8-(2-fluoro-4-((4-methyl-2-(methoxycarbonyl-1-ethyloxy)phenyl)methoxy)phenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.62)
8-(2-Fluoro-4-hydroxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (200 mg) was dissolved into DMF (6 ml), which was then added with potassium carbonate (106 mg) and methyl 2-(2-(chloromethyl)-5-methylphenoxy)propanoate (155 mg), and stirred for 2 hours at 75° C. Subsequently, the mixture was added with water and extracted with diethyl ether. The organic layer was dried on magnesium sulfate followed by distilling off the solvent under reduced pressure. The thus obtained residue was purified by a preparative thin-layer plate of silica gel (developing solvent: ethyl acetate/hexane=2/3) to give the compound of interest (170 mg).

reactant | 8-(2-Fluoro-4-hydroxyphenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 200 mg | FC1=C(C=CC(=C1)O)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2 | C13H7F4N3O2
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 106 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(2-(chloromethyl)-5-methylphenoxy)propanoate | 155 mg | ClCC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C12H15ClO3
solvent | water | O | H2O
product | 8-(2-fluoro-4-((4-methyl-2-(methoxycarbonyl-1-ethyloxy)phenyl)methoxy)phenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | FC1=C(C=CC(=C1)OCC1=C(C=C(C=C1)C)OCCC(=O)OC)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2 | C25H21F4N3O5
